US07312214B2
Part A. [1-(4-Iodo-phenyl)-cyclopropyl]-carbamic acid tert-butyl ester (0.34 g, 0.95 mmol) and 1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (0.30 g, 0.97 mmol) were stirred in DMSO (1 mL). K2CO3 (0.25 g, 1.81 mmol), CuI (87 mg, 0.46 mmol) and 1,10-phenanthroline (83 mg, 0.46 mmol) were added. The resulting mixture was heated at 120° C. for 2.5 h. After cooling, it was extracted with EtOAc (2×), washed with H2O and brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by FCC (silica gel, CH2Cl2:EtOAc=1:1, then EtOAc) to give 6-[4-(1-tert-butoxycarbonylamino-cyclopropyl)-phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (0.24 g, yield: 46%).

reactant | [1-(4-Iodo-phenyl)-cyclopropyl]-carbamic acid tert-butyl ester | 0.95 mmol, 0.34 g | C(C)(C)(C)OC(NC1(CC1)C1=CC=C(C=C1)I)=O | C14H18INO2
reactant | 1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 0.97 mmol, 0.30 g | C(C)OC(=O)C1=NN(C=2C(NCCC21)=O)C2=CC=C(C=C2)OC | C16H17N3O4
reactant | K2CO3 | 1.81 mmol, 0.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 0.46 mmol, 83 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.46 mmol, 87 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[4-(1-tert-butoxycarbonylamino-cyclopropyl)-phenyl]-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 0.24 g, yield: 46% | C(C)OC(=O)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C2(CC2)NC(=O)OC(C)(C)C)=O)C2=CC=C(C=C2)OC | C30H34N4O6
